US06211215B1
In substantially the same manner as in Reference Example 82, ethyl 3-(3-chloro-4-methoxymethoxyphenyl)propionate was subjected to reduction with lithium aluminum hydride to obtain 3-(3-chloro-4-methoxymethoxyphenyl)propanol as an oil. The yield was 97%.

reactant | ethyl 3-(3-chloro-4-methoxymethoxyphenyl)propionate | ClC=1C=C(C=CC1OCOC)CCC(=O)OCC | C13H17ClO4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 3-(3-chloro-4-methoxymethoxyphenyl)propanol | yield was 97% | ClC=1C=C(C=CC1OCOC)CCCO | C11H15ClO3
